US05693651
(2) 3-amino-7-(2-trifluoromethylbenzyloxy)quinoline
In ethanol (30 mL) was suspended 3-nitro-7-(2-trifluoromethylbenzyloxy)quinoline (600 mg, 1.72 mmol.), and to the suspension was added platinum oxide (72 mg). Then, catalytic reduction was performed for 3 hours. After the completion of reaction was confirmed, the reaction mixture was filtered over Celite®, and the filtrate was placed under reduced pressure to leave the desired compound as brown oil in the quantitative yield.

reactant | 3-nitro-7-(2-trifluoromethylbenzyloxy)quinoline | 1.72 mmol, 600 mg | [N+](=O)([O-])C=1C=NC2=CC(=CC=C2C1)OCC1=C(C=CC=C1)C(F)(F)F | C17H11F3N2O3
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | platinum oxide | 72 mg | [Pt]=O
product | 3-amino-7-(2-trifluoromethylbenzyloxy)quinoline | quantitative yield | NC=1C=NC2=CC(=CC=C2C1)OCC1=C(C=CC=C1)C(F)(F)F | C17H13F3N2O
